US08835420B2
(S)—N4-(1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine-4,6-diamine
(S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride (500 mg, 1.71 mmol), 4-chloro-1H-pyrazolo[3,4-d]pyrimidin-6-amine (436 mg, 2.57 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.895 mL, 5.14 mmol) were combined in acetonitrile (10 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was diluted with MeOH/DMSO and purified by preparative HPLC (basic mode) eluting with 35% ACN in water. The fractions containing the desired product were combined and lyophilized to give the title compound as a pale yellow solid (360 mg, 54.2%). 1H NMR (500 MHz, DMSO-d6) δ ppm 1.41 (d, J=6.83 Hz, 3 H), 3.59-3.68 (m, 3 H), 3.83 (s, 3 H), 5.57 (dd, J=13.42, 6.59 Hz, 3 H), 6.46 (d, J=1.46 Hz, 1 H), 6.61 (d, J=2.93 Hz, 1 H), 7.55 (d, J=1.46 Hz, 1 H), 7.72 (d, J=3.42 Hz, 1 H), 7.89 (s, 1 H), 7.95-8.03 (m, 2 H), 12.33 (br s, 1 H); ESI-MS m/z [M+H]+ calc'd for C19H20N10,389; found 389.

reactant | (S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine hydrochloride | 1.71 mmol, 500 mg | Cl.CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N
reactant | 4-chloro-1H-pyrazolo[3,4-d]pyrimidin-6-amine | 2.57 mmol, 436 mg | ClC1=C2C(=NC(=N1)N)NN=C2 | C5H4ClN5
reactant | N-ethyl-N-isopropylpropan-2-amine | 5.14 mmol, 0.895 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)—N4-(1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)-1H-pyrazolo[3,4-d]pyrimidine-4,6-diamine | 360 mg, 54.2% | CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)NC2=C1C(=NC(=N2)N)NN=C1 | C19H20N10
